US06004955
Cis-3-[[[4-[4-(aminoiminomethyl)phenyl]tetrahydro-3-methyl-2-oxo-2H-1,3-oxazin-6-yl]acetyl]amino]-N-[(3-methylphenyl)sulfonyl]-L-alanine monohydrogenchloride
Cis-3-[[[4-[4-(aminoiminomethyl)phenyl]tetrahydro-3-methyl-2-oxo-2H-1,3-oxazin-6-yl]acetyl]amino]-N-[(3-methylphenyl)sulfonyl]-L-alanine methyl ester(30 mg, 0.06 mmol) was dissolved in 3N HCl(3 ml). The resulting solution was stirred at rt for 36 hrs and then concentrated to yield the acid as an amorphous solid(90 mg, 90% yield). The acid was further purified by reverse HPLC using water and 0.1% TFA in acetonitrile as eluent. MS(ESI) Calc. for (M+1)+ : 532. Found: 532.

reactant | Cis-3-[[[4-[4-(aminoiminomethyl)phenyl]tetrahydro-3-methyl-2-oxo-2H-1,3-oxazin-6-yl]acetyl]amino]-N-[(3-methylphenyl)sulfonyl]-L-alanine methyl ester | 0.06 mmol, 30 mg | COC([C@@H](NS(=O)(=O)C1=CC(=CC=C1)C)CNC(C[C@@H]1C[C@@H](N(C(O1)=O)C)C1=CC=C(C=C1)C=NN)=O)=O | C25H31N5O7S
reactant | HCl | 3N, 3 ml | Cl | ClH
product | Cis-3-[[[4-[4-(aminoiminomethyl)phenyl]tetrahydro-3-methyl-2-oxo-2H-1,3-oxazin-6-yl]acetyl]amino]-N-[(3-methylphenyl)sulfonyl]-L-alanine monohydrogenchloride | 90 mg, 90% yield | Cl.NN=CC1=CC=C(C=C1)[C@@H]1N(C(O[C@@H](C1)CC(=O)NC[C@H](NS(=O)(=O)C1=CC(=CC=C1)C)C(=O)O)=O)C | InChI=1S/C24H29N5O7S.ClH/c1-15-4-3-5-19(10-15)37(34,35)28-20(23(31)32)14-26-22(30)12-18-11-21(29(2)24(33)36-18)17-8-6-16(7-9-17)13-27-25;/h3-10,13,18,20-21,28H,11-12,14,25H2,1-2H3,(H,26,30)(H,31,32);1H/t18-,20-,21+;/m0./s1
